US07265120B2
Under ice-cooling, to a suspension of 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride (1.00 g) and tert-butyl {2-[(2,5-dioxo-1-pyrrolidinyl)oxy]-2-oxoethyl}carbamate (973 mg) in CH2Cl2 (10 ml) was added ethyl(diisopropyl)amine (0.651 ml) and stirred at the same temperature for 2 hours and at 20-25° C. for 18 hours. The mixture was washed with water, dried over MgSO4 and concentrated under reduced pressure to give syrup. The syrup was purified by column chromatography on silica gel (EtOAc only) to give tert-butyl (2-{[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]amino}-2-oxoethyl)carbamate as an amorphous solid (1.13 g).

reactant | 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride | 1.00 g | Cl.NC(C(C1=CC=CC=C1)=O)C=1C=CC(N(N1)C(C)C)=O
reactant | tert-butyl {2-[(2,5-dioxo-1-pyrrolidinyl)oxy]-2-oxoethyl}carbamate | 973 mg | O=C1N(C(CC1)=O)OC(CNC(OC(C)(C)C)=O)=O | C11H16N2O6
reactant | ethyl(diisopropyl)amine | 0.651 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (2-{[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]amino}-2-oxoethyl)carbamate | 1.13 g | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NC(CNC(OC(C)(C)C)=O)=O | C22H28N4O5
